US05877317
Titanium tetrachloride (1M in methylene chloride, 90 ml, 90.0 mmol) is added over a period of 20 minutes to an ice-cooled mixture of phenethyl alcohol (XLV, 4.9 ml, 41.0 mmol), ethyl 3,3-diethoxypropionate (LXXV, 9.1 ml, 46.8 mmol) and nitromethane (17 ml). The mixture is stirred for 2 hr and then concentrated, diluted with ether, poured into ice/hydrochloric acid (1N), and allowed to stir. The phases are separated and the aqueous phase is extracted three times with ether. The combined organic phases are backwashed with saline, dried over magnesium sulfate and concentrated. The residue is chromatographed on silica gel eluting with ethyl acetate/hexane (10/90). The appropriate fractions are pooled and concentrated to give ethyl (±)-(isochroman-1-yl)acetate (LXXVII), NMR (CDCl3) 1.28, 2.68-3.04, 3.82, 4.13, 4.22, 5.26, 7.05 and 7.16 δ.

reactant | phenethyl alcohol | 41.0 mmol, 4.9 ml | C(CC1=CC=CC=C1)O | C8H10O
reactant | ethyl 3,3-diethoxypropionate | 46.8 mmol, 9.1 ml | C(C)OC(CC(=O)OCC)OCC | C9H18O4
catalyst | Titanium tetrachloride | 90.0 mmol, 1M, 90 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | nitromethane | 17 ml | [N+](=O)([O-])C | CH3NO2
product | ethyl (±)-(isochroman-1-yl)acetate | C1(OCCC2=CC=CC=C12)CC(=O)OCC | C13H16O3
